Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]=[C:6]([H:7])[H:8].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8],-1.64980071986
[O:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2](#[C:3][O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1],3.86522391181
[C:1][C@@:2]1([H:3])[O:4][C@:5]1([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],0.43422030653
[O:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:5].[O:1][O:2][C:3]([H:4])=[C:6][H:7],1.70276153063
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([O:12])([H:13])[H:14].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([O:12])([H:13])[H:14],-3.97663799
[C:4](#[C:5][C:6]([H:7])[H:8])[O:9][H:10].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10],-0.372617766048
[C:5]([H:6])[H:7].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],-7.543861627410001
[O:1][C@@:2]([H:3])([C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:3].[O:1]=[C:2]([C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.767842585998
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3],4.81425281638
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[O:10][H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11],-2.88224499393
[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7][H:8].[O:9][H:10]>>[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-6.486537276980001
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:5]([H:6])([H:7])[O:8][H:9].[O:1]=[C:2]([H:3])[H:4],0.644581494601
[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.39075870518
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8],0.4647547399989999
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.69178713485
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:7](\[H:8])[C:9]([H:10])[H:11].[H:6]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-3.32927772399
[H:1][O:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:1].[O:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],3.70135897825
[H:1][O:2][C:3][C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2][C:3]([H:4])[C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.77097374052
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]=[O:7]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11],-3.98384818629
[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.32029008711
[C:2](#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]([C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.1338360054400005
[H:1][C:2].[O:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-3.24838283123
[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][H:7].[H:8]>>[C:1]#[C:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],-3.04857163065
[O:1]=[C:2].[O:3][H:4]>>[O:1]=[C:2][O:3][H:4],-2.89075179158
[H:9].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.38841220331
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[H:9].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[H:8],4.2541009906000005
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])([C:5]#[C:6])[O:11][H:12]>>[H:1][O:2][C:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[O:11][H:12],-5.784266089419999
[O:1]=[C:2]1[C:3]([H:4])([H:5])[C@@:6]1([O:7][H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-1.28711138268
[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-1.7483090922099995
[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14],-1.91303818621
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-2.33463648486
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.40229940883
